US08030500B2
2-(3-(3-Amino-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-1-yl) phenyl)isonicotinonitrile
1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine (0.200 g, 0.49 mmol), 2-(trimethylstannyl)isonicotinonitrile (0.194 g, 0.73 mmol), tetrakis(triphenylphosphine)palladium(0) (0.056 g, 0.05 mmol) and DMF (4 mL) were put in a microwave vial and heated in a microwave reactor at 110° C. for 20 min, then at 150° C. for 20 min. The reaction mixture was filtered through a syringe filter and purified by preparative HPLC. The desired fractions were pooled and concentrated in vacuo. The residue was partitioned between aqueous sodium bicarbonate (sat.) and ethyl acetate. The aqueous layer was extracted with EtOAc (×2), the combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound (0.018 g, 9%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.86 (dd, 1 H) 8.40 (t, 1 H) 8.11-8.15 (m, 1 H) 8.04 (d, 1 H) 8.01 (ddd, 1 H) 7.78-7.81 (m, 1 H) 7.66 (d, 1 H) 7.51-7.57 (m, 1 H) 7.42-7.47 (m, 2 H) 7.24-7.31 (m, 1 H) 6.88 (dd, 1 H) 6.59-6.71 (m, 3 H) 3.79 (s, 3 H); MS (ES+) m/z 436 [M+H]+.

reactant | 1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.49 mmol, 0.200 g | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H15BrFN3O
reactant | 2-(trimethylstannyl)isonicotinonitrile | 0.73 mmol, 0.194 g | C[Sn](C=1C=C(C#N)C=CN1)(C)C
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.056 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(3-(3-Amino-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-1-yl) phenyl)isonicotinonitrile | 0.018 g, 9% | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC=C1)OC)C=1C=C(C=CC1)C=1C=C(C#N)C=CN1 | C26H18FN5O
